US06320050B1
A solution of 3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)propionic acid (164.0 mg, 0.47 mmol) and triphenylphosphine (184.2 mg, 0.70 mmol) in methylene chloride (1.2 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (141.6 mg, 0.80 mmol) in small portions. After the complete addition of N-bromosuccinimide, the reaction mixture was allowed to warm to 25° C. where it was stirred for 1 h. The reaction mixture was then treated with 2-aminothiazole (140.6 mg, 1.40 mmol). The resulting reaction mixture was stirred at 25° C. for 22 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-N-thiazol-2-yl-2-(4-trifluoromethanesulfonyl-phenyl)-propionamide (47.9 mg, 24%) as a cream solid: mp 189-191° C.; EI-HRMS m/e calcd for C18H19F3N2O3S2 (M+) 432.0789, found 432.0791.

reactant | 3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)propionic acid | 0.47 mmol, 164.0 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C15H17F3O4S
reactant | triphenylphosphine | 0.70 mmol, 184.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.80 mmol, 141.6 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-aminothiazole | 1.40 mmol, 140.6 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 1.2 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-thiazol-2-yl-2-(4-trifluoromethanesulfonyl-phenyl)-propionamide | 47.9 mg, 24% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C18H19F3N2O3S2
